US08445501B2
cis-4-[5-(2-Methoxy-ethoxy)-benzo[1,3]dioxol-4-yl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(2-hydroxy-acetylamino)-cyclohexyl]-amide
Starting from cis-4-[5-(2-methoxy-ethoxy)-benzo[1,3]dioxol-4-yl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide (example A186) and acetic acid chlorocarbonyl-methyl ester the title compound was obtained as colorless solid.

reactant | cis-4-[5-(2-methoxy-ethoxy)-benzo[1,3]dioxol-4-yl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide | N[C@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCCOC | C23H27N5O5
reactant | acetic acid chlorocarbonyl-methyl ester | ClC(=O)COC(C)=O | C4H5ClO3
product | cis-4-[5-(2-Methoxy-ethoxy)-benzo[1,3]dioxol-4-yl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(2-hydroxy-acetylamino)-cyclohexyl]-amide | OCC(=O)N[C@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCCOC | C25H29N5O7
